US07705053B2
Production of 4-methoxy-3-N-quinolin-5-yl-isophthalamide (Compound 1-3-39)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 5-aminoquinoline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 5-aminoquinoline | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
product | 4-methoxy-3-N-quinolin-5-yl-isophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=C2C=CC=NC2=CC=C1 | C18H15N3O3
